US06469176B1
Preparation of 2-Methyl-3,4-dimethylthiobromobenzene
14.8 g (129 mmol) of tert-butyl nitrite and 20 g of copper powder are initially charged in 50 ml of dimethyl disulfide, and a solution of 20 g (86 mol) of 4-bromo-3-methyl-2-methylthioaniline in 100 ml of dimethyl disulfide is added dropwise at from 50 to 55° C. The mixture is subsequently stirred at 50° C. for 4 hours. For work-up, the solid is filtered off with suction and the filtrate is diluted with methylene chloride and extracted with dilute hydrochloric acid. The organic phase is washed with saturated aqueous NaHCO3 solution, dried over sodium sulfate, filtered off and concentrated. Excess dimethyl disulfide is removed under oil pump vacuum.

reactant | tert-butyl nitrite | 129 mmol, 14.8 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 4-bromo-3-methyl-2-methylthioaniline | 86 mol, 20 g | BrC1=C(C(=C(N)C=C1)SC)C | C8H10BrNS
reactant | dimethyl disulfide | 50 ml | CSSC | C2H6S2
reactant | dimethyl disulfide | 100 ml | CSSC | C2H6S2
catalyst | copper | 20 g | [Cu] | Cu
product | 2-Methyl-3,4-dimethylthiobromobenzene | CC1=C(C=CC(=C1SC)SC)Br | C9H11BrS2
